US09422267B2
To a solution of N-(6-fluoro-3-pyridyl)-1-[4-[(5-isopropyl-1H-pyrazol-3-yl)amino]-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl]pyrrolidine-2-carboxamide (500 mg, 1.111 mmol) in THF (10 mL) was added HCl (1 mL) and reaction mixture was stirred at 60° C. for 16 h. The progress of reaction was monitored by LCMS. The reaction mixture was concentrated under vacuum to obtain crude product which was purified by reverse HPLC to afford N-(6-hydroxy-3-pyridyl)-1-[4-[(5-isopropyl-1H-pyrazol-3-yl)amino]-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl]pyrrolidine-2-carboxamide (249 mg). 1H NMR (400 MHz, CD3OD) δ (ppm): 1.17-1.30 (m, 6H), 2.17-2.37 (m, 4H), 2.38-2.50 (m, 1H), 2.79-2.95 (m, 3H), 3.00-3.10 (m, 2H), 3.22-3.38 (m, 2H), 3.58-3.70 (m, 1H), 3.80 (brs, 1H), 4.81 (dd, 1H), 6.22 (s, 1H), 6.68 (d, 1H), 7.60 (d, 1H), 7.98 (s, 1H). Separation by chiral HPLC provides enantiomers 63a and 63b.

reactant | N-(6-fluoro-3-pyridyl)-1-[4-[(5-isopropyl-1H-pyrazol-3-yl)amino]-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl]pyrrolidine-2-carboxamide | 1.111 mmol, 500 mg | FC1=CC=C(C=N1)NC(=O)C1N(CCC1)C=1N=C(C2=C(N1)CCC2)NC2=NNC(=C2)C(C)C | C23H27FN8O
reactant | HCl | 1 mL | Cl | ClH
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | N-(6-hydroxy-3-pyridyl)-1-[4-[(5-isopropyl-1H-pyrazol-3-yl)amino]-6,7-dihydro-5H-cyclopenta[d]pyrimidin-2-yl]pyrrolidine-2-carboxamide | 249 mg | OC1=CC=C(C=N1)NC(=O)C1N(CCC1)C=1N=C(C2=C(N1)CCC2)NC2=NNC(=C2)C(C)C | C23H28N8O2
